US05849755
3-(3-Ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-6-(methylaminothiocarbonylaminosulfonyl)-7-methoxychroman
2.05 g (5 mmol) of 3-(3-ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-6-sulfamoyl-7-methoxychroman, 2.07 g (15 mmol) of finely powdered potassium carbonate and 0.44 g (6 mmol) of methyl isothiocyanate were suspended or dissolved in 20 ml of DMSO. The reaction mixture was stirred at 80° C. for 1 hour. The mixture was poured onto ice-water and the product was precipitated by acidification with hydrochloric acid. After the crude product had been filtered off with suction and dried, it was purified by chromatography over silica gel (eluting agent methylene chloride/glacial acetic acid 19:1). The product had a melting point of 205° C.

reactant | 3-(3-ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-6-sulfamoyl-7-methoxychroman | 5 mmol, 2.05 g | C(C)C=1C(N(CC1C)C(=O)NC1COC2=CC(=C(C=C2C1)S(N)(=O)=O)OC)=O | C18H23N3O6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl isothiocyanate | 6 mmol, 0.44 g | CN=C=S | C2H3NS
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 3-(3-Ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-6-(methylaminothiocarbonylaminosulfonyl)-7-methoxychroman | C(C)C=1C(N(CC1C)C(=O)NC1COC2=CC(=C(C=C2C1)S(=O)(=O)NC(=S)NC)OC)=O | C20H26N4O6S2
